US05482822
In dimethylformamide, 0.05 mol of 9,10-diaminoanthracene, 0.35 mol of p-nitroiodobenzene, 0.14 mol of anhydrous potassium carbonate, and copper powder were added and refluxed with stirring for 4 days. After the reaction was completed, the reaction mixture was filtered, and the filtered product was thoroughly washed with dimethylformamide, water and acetone, followed by drying. Thus, 0.043 mol of brown tetrakis(p-nitrophenyl)-9,10-diaminoanthracene was obtained.

reactant | 9,10-diaminoanthracene | 0.05 mol | NC=1C2=CC=CC=C2C(=C2C=CC=CC12)N | C14H12N2
reactant | p-nitroiodobenzene | 0.35 mol | [N+](=O)([O-])C1=CC=C(C=C1)I | C6H4INO2
reactant | potassium carbonate | 0.14 mol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | copper | [Cu] | Cu
product | tetrakis(p-nitrophenyl)-9,10-diaminoanthracene | 0.043 mol | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C(=C(C2=C(C3=CC=CC=C3C(=C12)N)N)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-] | C38H24N6O8
